US05498728
A mixture of diethyl 4-aminobenzylphosphonate (10 g) and diethyl benzylmalonate (24 g) was stirred at 160° C. for 24 hours. After cooling, the reaction mixture was purified by column chromatography on silica gel. Elution with chloroform-methanol (100:1, v/v) gave ethyl 2-(p-diethoxyphosphorylmethylphenylaminocarbonyl)-3-phenylpropionate (8.3 g, 45%) as crystals. Recrystallization from ethyl acetate-hexane gave colorless crystals having melting point of 115° to 116° C.

reactant | diethyl 4-aminobenzylphosphonate | 10 g | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | diethyl benzylmalonate | 24 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
product | ethyl 2-(p-diethoxyphosphorylmethylphenylaminocarbonyl)-3-phenylpropionate | 8.3 g, 45% | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)NC(=O)C(C(=O)OCC)CC1=CC=CC=C1 | C23H30NO6P
